US08623889B2
Step 2: 5-bromo-6-methylpyridin-3-amine
To a solution of 3-bromo-2-methyl-5-nitropyridine (2.3 g, 10.5 mmol) in EtOH (20 mL) was added water (40 mL), NH4Cl (2.25 g, 42 mmol) and iron powder (2.94 g, 52.5 mmol). The mixture was stirred at 75° C. for 2 hours. After the reaction mixture was cooled to room temperature, it was filtered through a celite pad. Organic solvent was removed under reduced pressure, and it was extracted with CH2Cl2 (3×30 mL). The combined organic layer was dried over Na2SO4, and solvent was removed to give an off-white solid (1.52 g, 77%).

reactant | 3-bromo-2-methyl-5-nitropyridine | 10.5 mmol, 2.3 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])C | C6H5BrN2O2
reactant | water | 40 mL | O | H2O
reactant | NH4Cl | 42 mmol, 2.25 g | [NH4+].[Cl-]
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | iron | 52.5 mmol, 2.94 g | [Fe] | Fe
product | 5-bromo-6-methylpyridin-3-amine | 1.52 g, 77% | BrC=1C=C(C=NC1C)N | C6H7BrN2
